US08791123B2
Step G: Preparation of 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)-N-isopropylpyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared according to the method of Example 212, Step F, using 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and isopropyl amine. The title compound was obtained as a white solid (7.2 mg, 46% yield). MS (apci) m/z=413.1 (M+H).

reactant | 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=NC1)[C@H]1CC[C@@](N1C1=NC=2N(C=C1)N=CC2C(=O)O)(C)CO | C18H18FN5O3
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | 5-((2S,5R)-5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidin-1-yl)-N-isopropylpyrazolo[1,5-a]pyrimidine-3-carboxamide | FC=1C=C(C=NC1)[C@H]1CC[C@@](N1C1=NC=2N(C=C1)N=CC2C(=O)NC(C)C)(C)CO | C21H25FN6O2
